US07423035B2
8-{2-[1-(4-ethoxy-benzyl)-cyclopropylamino]-1-hydroxy-ethyl}-5-hydroxy-4H-benzo[1,4]oxazin-3-one
Prepared according to general method 3 from 329 mg (1 mmol) 5-benzyloxy-8-(2,2-dihydroxy-acetyl)-4H-benzo[1,4]oxazin-3-one and 191 mg (1 mmol) 1-(4-ethoxy-benzyl)-cyclopropylamine. Yield: 17 mg (3%, trifluoroacetate); mass spectroscopy: [M+H]+=399.

reactant | 5-benzyloxy-8-(2,2-dihydroxy-acetyl)-4H-benzo[1,4]oxazin-3-one | 1 mmol, 329 mg | C(C1=CC=CC=C1)OC1=CC=C(C2=C1NC(CO2)=O)C(C(O)O)=O | C17H15NO6
reactant | 1-(4-ethoxy-benzyl)-cyclopropylamine | 1 mmol, 191 mg | C(C)OC1=CC=C(CC2(CC2)N)C=C1 | C12H17NO
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
product | 8-{2-[1-(4-ethoxy-benzyl)-cyclopropylamino]-1-hydroxy-ethyl}-5-hydroxy-4H-benzo[1,4]oxazin-3-one | C(C)OC1=CC=C(CC2(CC2)NCC(O)C2=CC=C(C=3NC(COC32)=O)O)C=C1 | C22H26N2O5
